US07781459B2
3-Carboxymethoxy-4-[3-(2-chloro-4-fluorobenzoyl)ureido]benzoic acid
The crude product from step a) is converted in analogy to examples 1b) to 1d) into methyl 3-methoxycarbonylrnethoxy-4-[3-(2-chloro-4-fluorobenzoyl)ureido]-benzoate, of which 50 mg (0.11 mmol) are dissolved in 5 ml of THF, and 1 ml of water is added. To this are added 27 mg (1.1 mmol) of LiOH, and the reaction is stirred at room temperature until the precursor has reacted completely. The reaction is monitored by LC-MS. After completion of the reaction, the mixture is acidified with dilute hydrochloric acid and extracted twice with 20 ml of ethyl acetate each time. The combined organic phases are dried over Na2SO4, filtered and concentrated in a rotary evaporator, and the residue obtained in this way is purified in a preparative HPLC system (column: Waters Xterra™ MS C18, 5 μm, 30×100 mm, mobile phases: A: H2O+0.2% trifluoroacetic acid, B: acetonitrile, gradient: 2.5 minutes 90% A/10% B to 17.5 minutes 10% A/90% B). 28 mg (0.068 mmol) of the desired product are obtained.

reactant | methyl 3-methoxycarbonylrnethoxy-4-[3-(2-chloro-4-fluorobenzoyl)ureido]-benzoate | COC(=O)COC=1C=C(C(=O)OC)C=CC1NC(=O)NC(C1=C(C=C(C=C1)F)Cl)=O | C19H16ClFN2O7
reactant | water | 1 ml | O | H2O
reactant | LiOH | 1.1 mmol, 27 mg | [Li+].[OH-]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-Carboxymethoxy-4-[3-(2-chloro-4-fluorobenzoyl)ureido]benzoic acid | 0.068 mmol, 28 mg | C(=O)(O)COC=1C=C(C(=O)O)C=CC1NC(=O)NC(C1=C(C=C(C=C1)F)Cl)=O | C17H12ClFN2O7
